US07511050B2
Step D: 9-pentyl-3-[3-(4-phenyl-1H-pyrazol-1-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A mixture of N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]-4-(4-phenyl-1H-pyrazol-1-yl)butanohydrazide (369 mg, 0.823 mmols) in toluene (20 ml) was refluxed for 2 hours. After cooling to room temperature, the solid formed was filtered, washed with EtOAc/Hexane (1:9) and dried to give the desired product (234 mg, 66% yield) as off pink solid. LCMS calculated for C23H27N8O (M+H): 431.2; found: 431.1.

reactant | N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]-4-(4-phenyl-1H-pyrazol-1-yl)butanohydrazide | 0.823 mmols, 369 mg | O=C1C=2NC=NC2N(\C(\N1)=N\NC(CCCN1N=CC(=C1)C1=CC=CC=C1)=O)CCCCC | C23H28N8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 9-pentyl-3-[3-(4-phenyl-1H-pyrazol-1-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 234 mg, 66% yield | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)C(=NN2)CCCN2N=CC(=C2)C2=CC=CC=C2 | C23H26N8O
